Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
left fifth toe nonhealing pressure ulcer
 
Major Surgical or Invasive Procedure:
left ___ toe amputation, ___

 
History of Present Illness:
___ yo M with prior toe amputations on left foot of digits ___, 
now with pressure ulcer that is nonhealing given conformation of 
left ___ toe for the last few months.  He presents today for a 
___ toe amputation on the left foot.
 
Past Medical History:
PMH: PVD, Diabetes since ___ yoa, HTN, CVA ___ years ago s/p car 
accident, perioperative occipital lobe stroke ___

PSH: ___ Balloon angioplasty  of left superficial femoral 
artery. ___ Redo left below-knee popliteal to posterior 
tibial artery bypass with right basilic arm vein; RLE fem ___ 
___, Debridement right ___ toe ___ hallux 
amputation ___, LLE bypass x 2 (___), RLE knee 
surgery ___ years ago, gastric ulcer surgery 

 
Social History:
___
Family History:
N/C
 
Physical Exam:
Discharge physical exam: 
Gen: NAD, sitting up in bed
CV: pink and perfused
P: breathing comfortably on room air, bilateral chest rise
Abd: soft, NT, ND
Ext: left foot now missing all 5 toes, ___ toe incision clean 
and dry, covered with steri strips, right foot with multiple 
missing toes, both feet warm
 
Pertinent Results:
___ 07:00AM BLOOD WBC-7.1 RBC-4.59* Hgb-12.9* Hct-37.6* 
MCV-82 MCH-28.2 MCHC-34.4 RDW-14.1 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-306* UreaN-24* Creat-1.1 Na-134 
K-4.2 Cl-96 HCO3-25 AnGap-17
___ 07:00AM BLOOD Calcium-9.6 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Mr. ___ underwent an amputation of the ___ toe on the left 
foot on ___. He was started on IV vancomycin given his MRSA 
history, and he went to the recovery unit postoperatively, where 
he was allowed to advance his diet and take PO pain meds, if 
necessary.  All of his home medications were resumed, and he 
eventually was transferred to the floor without any issues. He 
voided without difficulty, and was continued on IV vancomycin 
for 24 hours.  He was afebrile overnight and was transitioned to 
7 days of Bactrim at the 24 hour mark. By the time of discharge, 
he was tolerating a regular diet, voiding on his own, tolerating 
PO pain meds, and his incision was intact, still covered with 
steri strips. He was given explicit discharge instructions and 
follow up instructions.
 
Medications on Admission:
___: amlodipine 5 mg po qd, atenolol 25 mg po qd, citalopram 10 
mg po qd, clopidogrel 75 mg po qd, Vytorin 
(ezetimibe/simvastatin) ___ mg po qd, gabapentin 100 mg TID, 
Lantus 44 units lunchtime, Humalog SS, lisinopril 20 mg bid, 
hydrochlorothiazide 12.5 mg bid Bactrim DS 800-160 mg BID, 
timolol 0.5% eye drops qd, aspirin 325 mg po qd, vitamin D3 1000 
units qd
 
Discharge Medications:
1. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Amlodipine 5 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
5. Atenolol 25 mg PO DAILY 
6. Citalopram 10 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Ezetimibe 10 mg PO DAILY 
9. Gabapentin 100 mg PO TID 
10. Hydrochlorothiazide 12.5 mg PO BID 
11. Glargine 44 Units Lunch
Insulin SC Sliding Scale using HUM Insulin
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
13. Lisinopril 20 mg ORAL BID 
14. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*30 
Tablet Refills:*0
15. Ranitidine 150 mg PO DAILY 
16. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left ___ toe non healing pressure ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent with orthotic.

 
Discharge Instructions:
Dear Mr. ___,
 
You were admitted to the Vascular Surgery service after your 
left ___ toe amputation. Your procedure went well without 
complications and you are recovering well. At this time, you are 
eating normally, able to use the restroom without difficulty and 
have been restarted on all of your home medications. You are now 
ready to continue your recovery at home, with the following 
instructions.

ACTIVITY:
• On the side of your amputation you are non-weight bearing on 
the front of your foot.  You should only be bearing weight on 
the heel of your foot, so please use your orthotics.
• You should keep this amputation site elevated whenever 
possible
• You may use the opposite foot for transfers and pivots
• No driving until cleared by your surgeon
• No heavy lifting greater than 20 pounds for the next 3 weeks
 
BATHING/SHOWERING:
• You may shower when you get home
• No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery
 
WOUND CARE:
• Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal.
• When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.
 
CAUTIONS:
• If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.
 
DIET:
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before
 
CALL THE OFFICE at ___ FOR:
• Bleeding, redness of, or drainage from your foot wound
• New pain, numbness or discoloration of the skin on the 
effected foot
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site.
 
Followup Instructions:
___